US08835470B2
(R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-V, 170 mg, 0.394 mmol), tert-butyl 2-aminoethylcarbamate (95 mg, 0.591 mmol), 4-methylmorpholine (159 mg, 1.577 mmol), and HATU (195 mg, 0.512 mmol) were dissolved in DMF (1 mL). The reaction mixture was stirred for 1 h and then was purified by prep HPLC (PHENOMENEX® Luna 5u 21×250 mm, gradient elution with Method 1—MeOH/water containing 0.1% trifluoroacetic acid as defined above, 0% B to 100% B over 30 min, 25 mL/min, 220 nM, product retention=31.6 min) to provide (R/S)-tert-butyl 2-(2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamido)ethylcarbamate (80 mg, 0.133 mmol, 33.6% yield): LCMS=474.1 [M+H−C5H9O2]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.17 (2 H, d, J=8.35 Hz), 7.51-7.74 (7 H, m), 5.12 (1 H, s), 3.35 (2 H, br. s.), 3.17-3.22 (2 H, m), 1.43 (9 H, s); HPLC peak RT=9.8 min (Method A).

reactant | (R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.394 mmol, 170 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C20H12F3N3O5
reactant | tert-butyl 2-aminoethylcarbamate | 0.591 mmol, 95 mg | NCCNC(OC(C)(C)C)=O | C7H16N2O2
reactant | 4-methylmorpholine | 1.577 mmol, 159 mg | CN1CCOCC1 | C5H11NO
reactant | HATU | 0.512 mmol, 195 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R/S)-tert-butyl 2-(2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamido)ethylcarbamate | 0.133 mmol, 80 mg, 33.6% yield | OC(C(=O)NCCNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C27H26F3N5O6
